US08198453B2
The solution of (S)-2-(tert-butoxycarbonylamino)-3-((R)-tetrahydro-2H-pyran-3-yl)propyl 4-methylbenzenesulfonate (132 mg, 0.32 mmol) and NaN3 (62 mg, 0.95 mmol) in anhydrous DMF was heated to 80° C. under N2 atmosphere for 1.5 hr, cooled to rt and diluted with EtOAc, and washed with H2O (3×20 mL), followed by brine, and dried over anhydrous Na2SO4, and filtered, and concentrated under reduced pressure. The resulted slurry was purified through flash chromatography on silica gel (eluted with gradient system: 0-30% EtOAc in hexane) to afford tert-butyl (S)-1-azido-3-((R)-tetrahydro-2H-pyran-3-yl)propan-2-ylcarbamate 58 mg, yield 64%. MS ESI+ve m/z 307 (M+Na).

reactant | (S)-2-(tert-butoxycarbonylamino)-3-((R)-tetrahydro-2H-pyran-3-yl)propyl 4-methylbenzenesulfonate | 0.32 mmol, 132 mg | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H](C[C@@H]1COCCC1)NC(=O)OC(C)(C)C | C20H31NO6S
reactant | NaN3 | 0.95 mmol, 62 mg | [N-]=[N+]=[N-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl (S)-1-azido-3-((R)-tetrahydro-2H-pyran-3-yl)propan-2-ylcarbamate | 58 mg, yield 64% | N(=[N+]=[N-])C[C@H](C[C@@H]1COCCC1)NC(OC(C)(C)C)=O | C13H24N4O3
